US06992103B2
Methyl 3-((S)-sec-butyloxy)-5-(2-oxopyrrolidin-1-yl)benzoate (D44)
Prepared in an analogous manner to D14 (first part of synthesis) from (S)-sec-butanol and methyl 3-hydroxy-5-(2-oxopyrrolidin-1-yl)-benzoate (D41).

reactant | (S)-sec-butanol | [C@H](C)(CC)O | C4H10O
reactant | methyl 3-hydroxy-5-(2-oxopyrrolidin-1-yl)-benzoate | OC=1C=C(C(=O)OC)C=C(C1)N1C(CCC1)=O | C12H13NO4
product | Methyl 3-((S)-sec-butyloxy)-5-(2-oxopyrrolidin-1-yl)benzoate | [C@H](C)(CC)OC=1C=C(C(=O)OC)C=C(C1)N1C(CCC1)=O | C16H21NO4
